US03975537
A mixture of 10.4 g. (0.052 mol.) of 3-chloro-4-methoxybenzoic acid methyl ester and 3.5 g. (0.09 mol.) of sodium hydroxide in 150 ml. of water was refluxed for two hours. The reaction mixture was cooled and acidified with 10% aqueous hydrochloric acid to precipitate 3-chloro-4-methoxybenzoic acid, m.p. 199°-202°. The acid was refluxed with thionyl chloride as described in the procedure of Example 9 to give 3-chloro-4-methoxybenzoic acid chloride, m.p. 55°-57°.

reactant | 3-chloro-4-methoxybenzoic acid methyl ester | 0.052 mol | COC(C1=CC(=C(C=C1)OC)Cl)=O | C9H9ClO3
reactant | sodium hydroxide | 0.09 mol | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-chloro-4-methoxybenzoic acid chloride | ClC=1C=C(C(=O)Cl)C=CC1OC | C8H6Cl2O2
